US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-oxo-propylamino)-6-methyl-nicotinic acid methyl ester
The title compound was prepared by Dess-Martin oxidation of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinic acid methyl ester. A, white solid was obtained after silica gel column chromatography. 1H NMR(CDCl3) d 8.6(d,1H), 7.01(s,2H), 5.899s,1H), 3.9-4.0(m,1H), 3.90(s,3H), 2.17(s,3H), 2.07(s,3H), 2.05(s,3H), 1.859m, 1H), 1.93(m, 1H), 1.00(t,3H) ppm.

reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(C(C)O)CC)C)OC1=C(C=C(C=C1C)Cl)C)=O | C21H27ClN2O4
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-oxo-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(C(C)=O)CC)C)OC1=C(C=C(C=C1C)Cl)C)=O | C21H25ClN2O4
